US07595397B2
(S)-2-Phenyl-morpholine
1.280 g (S)-2-Phenyl-morpholine-4-carboxylic acid tert-butyl ester was dissolved in 31 mL 4N HCl in dioxane and stirred at room temperature overnight. Concentrated in vacuo and diluted with 1N HCl. The aqueous was extracted with ether and then basicified to pH12-14 with 2N NaOH followed by extraction with DCM. The organic layers were dried over Na2SO4, filtered and concentrated in vacuo to afford 617 mg of product by H NMR. 78% yield.

reactant | (S)-2-Phenyl-morpholine-4-carboxylic acid tert-butyl ester | 1.280 g | C(C)(C)(C)OC(=O)N1C[C@@H](OCC1)C1=CC=CC=C1 | C15H21NO3
solvent | HCl | 4N, 31 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-2-Phenyl-morpholine | 617 mg | C1(=CC=CC=C1)[C@H]1CNCCO1 | C10H13NO
